US07538117B2
The process for preparing 5-[2-amino-4-(2-furyl)pyrimidin-5-yl]-1-methylpyridin-2(1H)-one disclosed in patent document 1 is, as shown in the reaction scheme below, a method of allowing 2-(6-chloro-3-pyridyl)-3-dimethylamino-1-(2-furyl)-2-propene-1-one to react with guanidine to afford 5-(6-chloro-3-pyridyl)-4-(2-furyl)-2-pyrimidinylamine, oxidizing this to afford 5-[2-amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone, and then methylating this.

reactant | 5-[2-amino-4-(2-furyl)pyrimidin-5-yl]-1-methylpyridin-2(1H)-one | NC1=NC=C(C(=N1)C=1OC=CC1)C=1C=CC(N(C1)C)=O | C14H12N4O2
reactant | 2-(6-chloro-3-pyridyl)-3-dimethylamino-1-(2-furyl)-2-propene-1-one | ClC1=CC=C(C=N1)C(C(=O)C=1OC=CC1)=CN(C)C | C14H13ClN2O2
reactant | guanidine | NC(=N)N | CH5N3
product | 5-(6-chloro-3-pyridyl)-4-(2-furyl)-2-pyrimidinylamine | ClC1=CC=C(C=N1)C=1C(=NC(=NC1)N)C=1OC=CC1 | C13H9ClN4O
